US05589478
To a solution of diethyl (4-methylphenyl)malonate (9.45 g) and butyramidine hydrochloride (5.00 g) in methanol (25 ml) is added 28% sodium methoxide (19.67 g) under ice-cooling, and the mixture is stirred at room temperature overnight. After the reaction is complete, the reaction solution is concentrated to the half volume thereof, and the resultant is diluted with water. The mixture is acidified with 10% hydrochloric acid, and the precipitated crystals are collected by filtration, washed, and dried to give 5-(4-methylphenyl)-4,6-dihydroxy-2-n-propylpyrimidine (5.17 g) as crystalline powder.

reactant | diethyl (4-methylphenyl)malonate | 9.45 g | CC1=CC=C(C=C1)C(C(=O)OCC)C(=O)OCC | C14H18O4
reactant | butyramidine hydrochloride | 5.00 g | Cl.C(CCC)(=N)N
reactant | sodium methoxide | 19.67 g | C[O-].[Na+]
solvent | methanol | 25 ml | CO | CH4O
product | 5-(4-methylphenyl)-4,6-dihydroxy-2-n-propylpyrimidine | 5.17 g | CC1=CC=C(C=C1)C=1C(=NC(=NC1O)CCC)O | C14H16N2O2
